US07462630B2
Synthesis of N-{2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl}-3,3-dimethylbutanamide
80.0 mg (0.217 mmol) of 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethanamine hydrochloride was dissolved in 1 ml of dichloromethane. 75.9 mg (0.750 mmol) of triethylamine was added to the obtained solution. Then a solution of 35.1 mg (0.260 mmol) of 3,3-dimethylbutanoyl chloride in 0.5 ml of dichloromethane was slowly added to the obtained mixture. After stirring for 30 minutes, the product was purified by the silica gel chromatography (hexane:ethyl acetate=93:7 to 3:1) to obtain the title compound.

reactant | 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethanamine hydrochloride | 0.217 mmol, 80.0 mg | Cl.C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CN)=O
reactant | triethylamine | 0.750 mmol, 75.9 mg | C(C)N(CC)CC | C6H15N
reactant | 3,3-dimethylbutanoyl chloride | 0.260 mmol, 35.1 mg | CC(CC(=O)Cl)(C)C | C6H11ClO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | N-{2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl}-3,3-dimethylbutanamide | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CNC(CC(C)(C)C)=O)=O | C28H32N2O2
